US05658854
4.6 ml of methyl chloroformate are added dropwise to a suspension of 15.0 g (0.052 mol) of methyl 2-benzylmercapto-3-methylaminobenzoate and 5.88 g (0.07 mol) of sodium hydrogen carbonate in 100 ml of CH2CN. After 5 h volatile components are removed by distillation (15 torr, 40° C.). The residue is taken up in ethyl acetate and washed in succession with 1 N hydrochloric acid and water. The organic phase is dried over MgSO4 and then the solvent is removed by distillation. Methyl 2-benzylmercapto-3-(N-methoxycarbonylmethylamino)benzoate is obtained in the form of a yellowish oil )14.8 g); 1H NMR (CDCl3, 80 MHz): δ=3.0 (s, 3H, N-CH3), 3.6 (s, 3H, O-CH3), 3.9 (s, 5H, OCH3 and SCH2Ph), 7.1-7.6 (m, 8H, Harom.).

reactant | methyl chloroformate | 4.6 ml | ClC(=O)OC | C2H3ClO2
reactant | methyl 2-benzylmercapto-3-methylaminobenzoate | 0.052 mol, 15.0 g | C(C1=CC=CC=C1)SC1=C(C(=O)OC)C=CC=C1NC | C16H17NO2S
reactant | sodium hydrogen carbonate | 0.07 mol, 5.88 g | C(O)([O-])=O.[Na+]
product | Methyl 2-benzylmercapto-3-(N-methoxycarbonylmethylamino)benzoate | C(C1=CC=CC=C1)SC1=C(C(=O)OC)C=CC=C1NCC(=O)OC | C18H19NO4S
